* SPDX-License-Identifier: Apache-2.0
* Calibrated dual-edge sense/write pulse generator for the regenerative RX.

.subckt cp_inv A Y VDD VSS params: WP=1.2u WN=0.6u MP=1 MN=1
XP Y A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN Y A VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends cp_inv

.subckt cp_nand2 A B Y VDD VSS params: WP=1.6u WN=1.2u MP=1 MN=1
XP0 Y A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XP1 Y B VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN0 Y A NS VSS nfet_03v3 w={WN} l=0.28u m={MN}
XN1 NS B VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends cp_nand2

.subckt cp_nor2 A B Y VDD VSS params: WP=8u WN=8u MP=6 MN=2
XP0 NP A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XP1 Y B NP VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN0 Y A VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
XN1 Y B VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends cp_nor2

* Full-restoration NOR for sub-cycle pulse formation.  A direct CMOS NOR has
* stacked PMOS devices on its time-critical rising edge; under extracted load
* a 130-ps valid input window only charged the output to about 1.3 V.
.subckt cp_nor_fast A B Y VDD VSS
XIA A AB VDD VSS cp_inv WP=8u WN=8u MP=1 MN=1
XIB B BB VDD VSS cp_inv WP=8u WN=8u MP=1 MN=1
XN AB BB YB VDD VSS cp_nand2 WP=8u WN=8u MP=3 MN=3
XIY YB Y VDD VSS cp_inv WP=8u WN=8u MP=4 MN=3
.ends cp_nor_fast

.subckt cp_delay_unit A Y VDD VSS params: WP=2.2u WN=1.1u MP=1 MN=1
XD0 A DI VDD VSS cp_inv WP={WP} WN={WN} MP={MP} MN={MN}
XD1 DI Y VDD VSS cp_inv WP={WP} WN={WN} MP={MP} MN={MN}
.ends cp_delay_unit

* Non-inverting edge shaper.  The falling output edge is deliberately slower
* than the rising edge, moving the SENSE leading edge later without consuming
* its recovery interval or changing logic thresholds.
.subckt cp_sense_edge_delay A Y VDD VSS
XD0 A DI VDD VSS cp_inv WP=8u WN=8u MP=4 MN=4
XD1 DI Y VDD VSS cp_inv WP=8u WN=8u MP=8 MN=8
.ends cp_sense_edge_delay

.subckt cp_tap_buffer A Y VDD VSS params: WP0=2u WN0=1u WP1=4u WN1=2u MN2=2
XI0 A B0 VDD VSS cp_inv WP={WP0} WN={WN0}
XI1 B0 B1 VDD VSS cp_inv WP={WP1} WN={WN1}
XI2 B1 B2 VDD VSS cp_inv WP=8u WN=6u MP=2 MN={MN2}
XI3 B2 Y VDD VSS cp_inv WP=8u WN=8u MP=4 MN=3
.ends cp_tap_buffer

* SSEL is already a static-CMOS restored node.  A second four-stage restorer
* added roughly 287 ps of extracted fall-edge latency and collapsed the odd
* low-overlap interval.  This two-stage path uses a 10-um restoring input and
* the same final drive as cp_tap_buffer without duplicating restoration.
.subckt cp_fast_tap_buffer A Y VDD VSS
XI0 A B0 VDD VSS cp_inv WP=6u WN=4u
XI1 B0 Y VDD VSS cp_inv WP=8u WN=8u MP=4 MN=2
.ends cp_fast_tap_buffer

* Profile 0 needs a slightly later CT falling edge at fast/cold, while the
* slow/hot profile needs substantially more pull-down.  FAST is SEL0B and is
* static while clocks run; the conditional series branch changes physical
* drive rather than inserting an ideal simulator delay.
.subckt cp_profile_tap_buffer A FAST Y VDD VSS
XI0 A B0 VDD VSS cp_inv WP=6u WN=4u
XI1 B0 Y VDD VSS cp_inv WP=8u WN=5.5u MP=4 MN=2
XNF Y B0 FAST VSS cp_cond_npd WG=8u WE=8u M=1
.ends cp_profile_tap_buffer

.subckt cp_sense_tap_buffer A Y VDD VSS
XI0 A B0 VDD VSS cp_inv WP=6u WN=4u
XI1 B0 Y VDD VSS cp_inv WP=8u WN=8u MP=2 MN=3
.ends cp_sense_tap_buffer

.subckt cp_fast_delay A Y VDD VSS
XI0 A B0 VDD VSS cp_inv WP=8u WN=8u MP=4 MN=5
XI1 B0 Y VDD VSS cp_inv WP=8u WN=8u MP=10 MN=4
.ends cp_fast_delay

.subckt cp_ultrafast_delay A Y VDD VSS
XI0 A B0 VDD VSS cp_inv WP=8u WN=8u MP=4 MN=4
XI1 B0 Y VDD VSS cp_inv WP=8u WN=8u MP=8 MN=8
.ends cp_ultrafast_delay

.subckt cp_cond_npd D G EN VSS params: WG=0.6u WE=3u M=1
XN0 D G N VSS nfet_03v3 w={WG} l=0.28u m={M}
XN1 N EN VSS VSS nfet_03v3 w={WE} l=0.28u m={M}
.ends cp_cond_npd

.subckt cp_gate_cap A VSS params: W=0.4u
XN VSS A VSS VSS nfet_03v3 w={W} l=0.28u m=1
.ends cp_gate_cap

* Restore each tap before the selector so an analog pass node never has to
* drive four branches plus a threshold-sensitive receiver.  Start and end use
* the same stages; their selected tap spacing, not ratioed thresholds, defines
* pulse width.
.subckt cp_tristate_inv A Y EN ENB VDD VSS params: WP=8u WN=4u M=2
XP0 NP A VDD VDD pfet_03v3 w={WP} l=0.28u m={M}
XP1 Y ENB NP VDD pfet_03v3 w={WP} l=0.28u m={M}
XN0 NN A VSS VSS nfet_03v3 w={WN} l=0.28u m={M}
XN1 Y EN NN VSS nfet_03v3 w={WN} l=0.28u m={M}
.ends cp_tristate_inv

.subckt cp_select_prebuffer A Y VDD VSS params: WP0=2u WN0=1u WP1=8u WN1=4u MPP=1 MNN=1
XI0 A B0 VDD VSS cp_inv WP={WP0} WN={WN0}
XI1 B0 Y VDD VSS cp_inv WP={WP1} WN={WN1} MP={MPP} MN={MNN}
.ends cp_select_prebuffer

.subckt cp_write_restore A Y VDD VSS params: MP0=2 MN0=2 MP1=3 MN1=4
XI0 A B1 VDD VSS cp_inv WP=8u WN=4u MP={MP0} MN={MN0}
XI1 B1 Y VDD VSS cp_inv WP=8u WN=6u MP={MP1} MN={MN1}
.ends cp_write_restore

.subckt cp_tg A Y EN ENB VDD VSS params: W=4u M=2
XN Y EN A VSS nfet_03v3 w={W} l=0.28u m={M}
XP Y ENB A VDD pfet_03v3 w={W} l=0.28u m={M}
.ends cp_tg

* Active-low pulse while the earlier tap A is high and later tap B is low.
.subckt cp_rise_b A B YB VDD VSS
XI B BN VDD VSS cp_inv WP=8u WN=9u MP=2 MN=2
XN A BN YB VDD VSS cp_nand2 WP=8u WN=8u MP=9 MN=7
.ends cp_rise_b

* Reset-dominant interval latch. S rises before R and sets Q; when R rises the
* latch resets even though S remains high. S then falls before R, returning the
* cross-coupled NOR pair to its unique Q=0, QB=1 idle state. Unlike a narrow
* combinational glitch, Q is a regenerated state node that only drives a small
* geometric taper input.
.subckt cp_write_latch S R Q QB VDD VSS
XQ R QB Q VDD VSS cp_nor2 WP=8u WN=8u MP=3 MN=2
XQB S Q QB VDD VSS cp_nor2 WP=8u WN=8u MP=3 MN=4
.ends cp_write_latch

.subckt cp_phase CLK SEL0 SEL1 SEL2 SEL3 Q2RESET VDD VSS
+ SENSE BOOST WRITE
+ params: MID_WP0=4u MID_WN0=2u MID_MPP=2 MID_MNN=3 P08_MPP=4 P08_MNN=5 WQ2_W=4u WQD_W=8u WQD_M=1 WB1_M=7 WB2_M=14 WB3_MP=30 WB3_MN=20
* Twelve matched non-inverting delay units provide digitally selectable taps.
* Four one-hot profiles select tap triplets retained by PVT screening. The
* transmission gates are part of the simulated circuit, not netlist rewrites.
* interval. Total transport delay remains below one recovered-clock period.
XD01 CLK D01 VDD VSS cp_delay_unit
XD02 D01 D02 VDD VSS cp_delay_unit
XD03 D02 D03 VDD VSS cp_delay_unit
XD04 D03 D04 VDD VSS cp_delay_unit
XD05 D04 D05 VDD VSS cp_delay_unit
XD06 D05 D06 VDD VSS cp_delay_unit
XD07 D06 D07 VDD VSS cp_delay_unit
XD08 D07 D08 VDD VSS cp_delay_unit
XD09 D08 D09 VDD VSS cp_delay_unit
XD10 D09 D10 VDD VSS cp_delay_unit
* D10 needs the same 3.3-um gate load as the first inverter of an internal
* delay unit, but no later tap is selected.  A gate-only dummy preserves that
* transport-line load without charging an otherwise unused inverter output.
XD11L D10 VSS cp_gate_cap W=3.3u

* Four calibrated profiles select complete sense/start/end triplets. Controls
* are static one-hot during operation and only change while the lane is reset.
XI0 SEL0 SEL0B VDD VSS cp_inv WP=4u WN=2u
XI1 SEL1 SEL1B VDD VSS cp_inv WP=4u WN=2u
XI2 SEL2 SEL2B VDD VSS cp_inv WP=4u WN=2u
XI3 SEL3 SEL3B VDD VSS cp_inv WP=4u WN=2u
XPC CLK PCLK VDD VSS cp_tap_buffer
+ WP0=4u WN0=2u WP1=8u WN1=4u MN2=4
* D08 is the calibrated common write epoch.  An older standalone P08 replica
* switched every cycle but no longer drove any selector; removing it recovers
* fast/cold current without changing a functional node.
XP09M D08 P09M VDD VSS cp_tap_buffer
+ WP0=4u WN0=2u WP1=8u WN1=4u MN2=4
XP10 D10 P10 VDD VSS cp_select_prebuffer
XSCB SEL0 SEL1 STDB VDD VSS cp_nor2 WP=4u WN=4u MP=2 MN=1
XSCI STDB STDEN VDD VSS cp_inv WP=4u WN=2u
* Select direct restored-clock paths with two physical drive strengths.  This
* calibrates the selector delay exposed by extraction without leaving large
* unused delay chains switching on every clock edge.
* Complementary pass gates preserve both clock rails under extracted load.
* The former stacked tri-state inverter bank could not recharge its shared
* node, leaving SSEL permanently high and suppressing the sense pulse.
XSM0A PCLK SSEL_RAW STDEN STDB VDD VSS cp_tg W=8u M=2
XSM0B PCLK SSEL_RAW STDEN STDB VDD VSS cp_tg W=8u M=2
XSM2A PCLK SSEL_RAW SEL2 SEL2B VDD VSS cp_tg W=8u M=2
XSM3A PCLK SSEL_RAW SEL3 SEL3B VDD VSS cp_tg W=8u M=2
XSM3B PCLK SSEL_RAW SEL3 SEL3B VDD VSS cp_tg W=8u M=2
XSM3C PCLK SSEL_RAW SEL3 SEL3B VDD VSS cp_tg W=8u M=2
XSMR SSEL_RAW SSEL VDD VSS cp_write_restore
* Select full-width write timing replicas through complementary pass gates and
* restore them before forming a narrow pulse.  The former stacked tri-state
* selector took about 300 ps to pull one extracted edge high, turning a
* nominal full-width replica into a 54 ps glitch before the write logic.
* Generate write-selector complements locally.  The small shared complement
* inverters formerly drove pass-gate banks across the cell; extracted RC left
* the gates partly enabled and reduced WSTART_SEL to an analog mid-rail node.
XWC0 SEL0 WSEL0B VDD VSS cp_inv WP=8u WN=8u MP=2 MN=2
XWC3 SEL3 WSEL3B VDD VSS cp_inv WP=8u WN=8u MP=2 MN=2
XWMCB SEL1 SEL2 WMIDB VDD VSS cp_nor2 WP=8u WN=8u MP=4 MN=2
XWMCI WMIDB WMID VDD VSS cp_inv WP=8u WN=8u MP=2 MN=2
XPLC P10 P10C VDD VSS cp_delay_unit WP=8u WN=5u
XWM3 P10C WSTART_SEL SEL0 WSEL0B VDD VSS cp_tg W=8u M=2
XP09D P09M P09D VDD VSS cp_fast_delay
XWM1 P09D WSTART_SEL WMID WMIDB VDD VSS cp_tg W=8u M=2
XPMD P09D P10M VDD VSS cp_delay_unit WP=17u WN=8.5u
XWE1 P10M WEND_SEL WMID WMIDB VDD VSS cp_tg W=8u M=2
XPLD P10C P10D VDD VSS cp_delay_unit WP=12u WN=8u
XWE3 P10D WEND_SEL SEL0 WSEL0B VDD VSS cp_tg W=8u M=2
* Slow/hot uses a restored D06 replica with a separately sized end delay.
* A static-CMOS gate, rather than an analog pass/clamp node, guarantees a
* restored clock at SS/hot and a rail-valued quiet zero in every other profile.
XPG3N D06 SEL3 P06B VDD VSS cp_nand2 WP=6u WN=7u MP=2 MN=2
XPG3I P06B P06S VDD VSS cp_inv WP=8u WN=6u MP=2 MN=3
XPMD3 P06S P09S VDD VSS cp_delay_unit WP=15.5u WN=8.75u
XWM3A P06S WSTART_SEL SEL3 WSEL3B VDD VSS cp_tg W=8u M=2
XWE3A P09S WEND_SEL SEL3 WSEL3B VDD VSS cp_tg W=8u M=2

* SENSE = CLK OR the selected sense tap. WRITE is high between the selected
* start and end tap. Matched tap buffers keep the large logic gates off the
* transport-delay nodes. The direct path crosses one enabled TG plus one quiet
* dummy TG, matching the two-branch sense selector's delay and diffusion load.
* These buffers preserve the intentionally short inactive and write intervals
* under the large regenerative-gate capacitances.
XWST WSTART_SEL WST VDD VSS cp_write_restore
XWET WEND_SEL WET VDD VSS cp_write_restore
* Restore both full-width timing replicas locally before pulse formation.  The
* former failing path put transmission gates and long routes ahead of these
* buffers; here each long route terminates at a first-stage gate and the
* restored CT/ST outputs sit immediately beside the NOR.
XCTA D03 CTM VDD VSS cp_fast_tap_buffer
XCTB CTM SEL0B CT VDD VSS cp_profile_tap_buffer
XST SSEL ST VDD VSS cp_sense_tap_buffer
XSN CT ST SN0 VDD VSS cp_nor_fast
XWL WST WET WCORE WCOREB VDD VSS cp_write_latch
XSB0 SN0 SB0 VDD VSS cp_inv WP=8u WN=8u MP=2 MN=2
XSB1 SB0 SB1 VDD VSS cp_inv WP=8u WN=8u MP=8 MN=4
XSB2 SB1 SENSE VDD VSS cp_inv WP=8u WN=8u MP=10 MN=8
XRB0 SN0 RB0 VDD VSS cp_inv WP=8u WN=4u
XRB1 RB0 RB1 VDD VSS cp_inv WP=8u WN=6u MP=3 MN=2
XRB2 RB1 BOOST VDD VSS cp_inv WP=8u WN=8u MP=5 MN=3
* During the legal S/R overlap both latch nodes are low. Qualifying QB with a
* locally delayed end clock creates a regenerated interval long enough for the
* 650-fF output taper, independent of when S later falls.
XWQD WET WETD VDD VSS cp_delay_unit WP={WQD_W} WN={WQD_W} MP={WQD_M} MN={WQD_M}
XWG WCOREB WETD WB0 VDD VSS cp_nor2 WP=8u WN=8u MP=8 MN=7
XWQ2 WB0 WET Q2RESET VSS cp_cond_npd WG={WQ2_W} WE={WQ2_W} M=1
XWQ3 WB0 WET SEL3 VSS cp_cond_npd WG=12u WE=12u M=1
* The shared-gate taper avoids the shoot-through interval of independently
* driven pull-up/pull-down banks. Its roughly 2x stage ratios support the
* larger final PMOS without placing that full gate load on a small predriver.
XWB0 WB0 WB1 VDD VSS cp_inv WP=8u WN=8u MP=3 MN=3
XWB1 WB1 WB2 VDD VSS cp_inv WP=8u WN=8u MP={WB1_M} MN={WB1_M}
XWB2 WB2 WB3 VDD VSS cp_inv WP=8u WN=8u MP={WB2_M} MN={WB2_M}
XWB3 WB3 WRITE VDD VSS cp_inv WP=8u WN=8u MP={WB3_MP} MN={WB3_MN}
.ends cp_phase

.subckt clock_pulse_generator CLKP CLKN SEL0 SEL1 SEL2 SEL3 VDD VSS
+ E_SENSE E_BOOST E_WRITE
+ O_SENSE O_BOOST O_WRITE
XE CLKP SEL0 SEL1 SEL2 SEL3 SEL2 VDD VSS
+ E_SENSE E_BOOST E_WRITE cp_phase WQ2_W=8u WQD_W=8u WB1_M=7 WB2_M=14 WB3_MP=30 WB3_MN=20
XO CLKN SEL0 SEL1 SEL2 SEL3 VSS VDD VSS
+ O_SENSE O_BOOST O_WRITE cp_phase WQ2_W=8u WQD_W=10u WB1_M=7 WB2_M=14 WB3_MP=30 WB3_MN=20
.ends clock_pulse_generator
